US04358460
3-(2-hydroxyphenyl)-2-cyclopenten-1-one
8.0 g 3-(2-benzyloxy-phenyl)-2-cyclopenten-1-one are stirred in 80 ml of 20% HBr/glacial acetic acid for 1 hour at room temperature. After evaporation of the glacial acetic acid, the residue is dissolved in methylene chloride and neutralized by shaking with a sodium-hydrogen-carbonate solution. After recrystallization from diisopropyl ether/diethyl ether, 3.7 g of 3-(2-hydroxyphenol)-2-cyclopenten-1-one are obtained with a melting point of 162°-165° C.

reactant | 3-(2-benzyloxy-phenyl)-2-cyclopenten-1-one | 8.0 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C1=CC(CC1)=O | C18H16O2
solvent | HBr | 80 ml | Br | BrH
product | 3-(2-hydroxyphenyl)-2-cyclopenten-1-one | OC1=C(C=CC=C1)C1=CC(CC1)=O | C11H10O2
